US09034866B2
Synthesis of (±)-2-(Pyridin-2-yl)but-3-yn-2-ol
This compound was prepared according to a procedure similar to that described in Procedure A. Into a 500-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 1-(pyridin-2-yl)ethan-1-one (6.0 g, 49.53 mmol, 1.00 equiv) in tetrahydrofuran (20 mL). This was followed by the addition of bromo(ethynyl)magnesium (0.5 M in THF, 250 mL, 2.50 equiv) dropwise with stiffing at 0° C. The resulting solution was stirred for 30 min at 0° C. The resulting solution was allowed to react, with stirring, for an additional 18 h at room temperature. The reaction was then quenched by the addition of 50 mL of saturated aqueous NH4Cl. The resulting solution was diluted with 100 mL of water. The resulting solution was extracted with 3×200 mL of ethyl acetate and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/hexane (1/10). This resulted in 0.8 g (11%) of 2-(pyridin-2-yl)but-3-yn-2-ol as a off-white solid. 1H-NMR (300 MHz, CDCl3, ppm) δ: 8.534 (d, 1H), 7.800-7.744 (t, 1H), 7.620 (d, 1H), 7.295-7.263 (m, 1H), 5.481-5.300 (br s, 1H), 2.546 (s, 1H), 1.797 (s, 3H).

reactant | 1-(pyridin-2-yl)ethan-1-one | 49.53 mmol, 6.0 g, 1.00 equiv | N1=C(C=CC=C1)C(C)=O | C7H7NO
reactant | bromo(ethynyl)magnesium | 0.5 M, 250 mL, 2.50 equiv | Br[Mg]C#C
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (±)-2-(Pyridin-2-yl)but-3-yn-2-ol | N1=C(C=CC=C1)C(C)(C#C)O | C9H9NO
